### PR TITLE
add some utility lemmas about semisets and finite sets

### PR DESCRIPTION
**Pull request by palmskog**
This comes from downstream and is needed there.

### CODE REVIEW

File: theories/Lib/StdppExtras.v [hunk 1]
```diff
@@ -618,3 +618,91 @@ Proof.
     intros [Ha ?]; split; [| by apply IHl].
     by contradict Ha; apply elem_of_list_fmap; eexists.
 Qed.
+
+Lemma is_Some_proj_elim {A : Type}
+ (m : option A) (Hsome : is_Some m) (f : A) (H : m = Some f) :
```
Comment (wkolowski) [inline theories/Lib/StdppExtras.v:623]:
```suggestion
  (m : option A) (Hsome : is_Some m) (f : A) (H : m = Some f) :
```

File: theories/Lib/FinSetExtras.v [hunk 2]
```diff
@@ -157,6 +157,27 @@ Proof.
...
+Qed.
+
+#[export] Instance fin_set_singleton_eq_dec :
+  forall (X : C) (x : A), Decision (X ≡ {[x]}).
+Proof.
+  intros.
+  destruct (decide (elements X = [x])).
+  - left; intro i.
+    by rewrite elem_of_singleton, <- elem_of_elements, e, elem_of_list_singleton.
+  - right; contradict n.
```
Comment (wkolowski) [inline theories/Lib/FinSetExtras.v:176]: Any way to avoid autogenerated names here?

**Review by wkolowski — APPROVED** [review]
